### PR TITLE
[Merged by Bors] - feat(Topology/Order/LowerUpperTopology): Dual the lower topology

### PR DESCRIPTION
**Pull request by mans0954**
Defines the upper topology, which is the dual of the lower topology on a preorder.

---

As [requested](https://leanprover.zulipchat.com/#narrow/stream/217875-Is-there-code-for-X.3F/topic/upper.20semicontinuous.20functions.20are.20bounded.20below.20compact) by @YaelDillies and @ADedecker .

I have put the lower and upper topologies in the same file. However, this may complicate the lean4 porting effort, so it may be better to keep the files separate whilst mathlib and mathlib4 are being kept in sync?

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by ADedecker** [comment]
Sorry for not commenting earlier, I'll review tomorrow.

**Comment by mans0954** [comment]
> Sorry for not commenting earlier, I'll review tomorrow.

Thanks very much - I appreciate I must have taken up a lot of people's time with my PRs.

File: Mathlib/Topology/Order/LowerUpperTopology.lean [hunk 1]
```diff
@@ -247,6 +347,86 @@ end PartialOrder
...
+    refine topologicalSpace_eq ?_
+    rw [(UpperTopology.topology_eq (α))]
+
+/-- Left-infinite right-closed intervals (-∞,a] are closed in the upper topology. -/
+theorem isClosed_Iic (a : α) : IsClosed (Iic a) :=
+  isOpen_compl_iff.1 <| isOpen_iff_generate_Iic_compl.2 <| GenerateOpen.basic _ ⟨a, rfl⟩
+
+/-- The lower closure of a finite set is closed in the upper topology. -/
+theorem isClosed_lowerClosure (h : s.Finite) : IsClosed (lowerClosure s : Set α) :=
+  @LowerTopology.isClosed_upperClosure αᵒᵈ _ _ _ _ h
```
Comment (ADedecker) [inline Mathlib/Topology/Order/LowerUpperTopology.lean:386]:
```suggestion
  LowerTopology.isClosed_upperClosure (α := αᵒᵈ) h
```
Named arguments are really perfect in that kind of situation. Same below

File: Mathlib/Topology/Order/LowerUpperTopology.lean [hunk 2]
```diff
@@ -247,6 +347,86 @@ end PartialOrder
...
+def withUpperTopologyHomeomorph : WithUpperTopology α ≃ₜ α :=
+  WithUpperTopology.ofUpper.toHomeomorphOfInducing ⟨by erw [topology_eq α, induced_id]; rfl⟩
+
+theorem isOpen_iff_generate_Iic_compl : IsOpen s ↔ GenerateOpen { t | ∃ a, (Iic a)ᶜ = t } s := by
+  rw [topology_eq α]; rfl
+
+instance  [Preorder α] [TopologicalSpace α] [UpperTopology α] : LowerTopology (αᵒᵈ) where
+  topology_eq_lowerTopology := by
+    refine topologicalSpace_eq ?_
+    rw [(UpperTopology.topology_eq (α))]
```
Comment (ADedecker) [inline Mathlib/Topology/Order/LowerUpperTopology.lean:378]:
```suggestion
instance [Preorder α] [TopologicalSpace α] [UpperTopology α] : LowerTopology (αᵒᵈ) where
  topology_eq_lowerTopology := topology_eq_upperTopology (α := α)
```
A bit more of defeq abuse, but the whole "apply the lemmas to the dual and let Lean figure out it works" is defeq abuse already.

File: Mathlib/Topology/Order/LowerUpperTopology.lean [hunk 3]
```diff
@@ -264,7 +444,24 @@ instance [Preorder α] [TopologicalSpace α] [LowerTopology α] [OrderBot α] [P
     · exact GenerateOpen.basic _ ⟨(a, ⊥), by simp [Ici_prod_eq, prod_univ]⟩
     · exact GenerateOpen.basic _ ⟨(⊥, b), by simp [Ici_prod_eq, univ_prod]⟩
 
-section CompleteLattice
+instance [Preorder α] [TopologicalSpace α] [UpperTopology α] [OrderTop α] [Preorder β]
+    [TopologicalSpace β] [UpperTopology β] [OrderTop β] : UpperTopology (α × β) where
```
Comment (ADedecker) [inline Mathlib/Topology/Order/LowerUpperTopology.lean:448]:
```suggestion
instance instUpperTopologyProd [Preorder α] [TopologicalSpace α] [UpperTopology α] [OrderTop α]
    [Preorder β] [TopologicalSpace β] [UpperTopology β] [OrderTop β] : UpperTopology (α × β) where
```
The auto-generated name is way too long. Could you also fix the lower version similarly?

File: Mathlib/Topology/Order/LowerUpperTopology.lean [hunk 4]
```diff
@@ -264,7 +444,24 @@ instance [Preorder α] [TopologicalSpace α] [LowerTopology α] [OrderBot α] [P
...
+    rw [(UpperTopology.isTopologicalBasis.prod UpperTopology.isTopologicalBasis).eq_generateFrom,
+      le_generateFrom_iff_subset_isOpen, image2_subset_iff]
+    rintro _ ⟨s, hs, rfl⟩ _ ⟨t, ht, rfl⟩
+    dsimp
+    simp_rw [coe_lowerClosure, compl_iUnion, prod_eq, preimage_iInter, preimage_compl]
+    -- without `let`, `refine` tries to use the product topology and fails
+    let _ : TopologicalSpace (α × β) := generateFrom { s | ∃ a, (Iic a)ᶜ = s }
+    refine (isOpen_biInter hs fun a _ => ?_).inter (isOpen_biInter ht fun b _ => ?_)
+    · exact GenerateOpen.basic _ ⟨(a, ⊤), by simp [Iic_prod_eq, prod_univ]⟩
+    · exact GenerateOpen.basic _ ⟨(⊤, b), by simp [Iic_prod_eq, univ_prod]⟩
```
Comment (ADedecker) [inline Mathlib/Topology/Order/LowerUpperTopology.lean:462]:
```suggestion
  topology_eq_upperTopology := by
    suffices : LowerTopology (α × β)ᵒᵈ
    · exact LowerTopology.topology_eq_lowerTopology (α := (α × β)ᵒᵈ)
    exact instLowerTopologyProd (α := αᵒᵈ) (β := βᵒᵈ)
```
This may be a bit too much of defeq abuse, but I don't see any other solution that doesn't involve a ton of extra API. @YaelDillies could I get your opinion on this?

**Comment by ADedecker** [comment]
> I appreciate I must have taken up a lot of people's time with my PRs.

You shouldn't have to worry about that, your contributions are definitely welcome and your code is looking good, so time spent reviewing it is time well-spent!

File: Mathlib/Topology/Order/LowerUpperTopology.lean (hunk 4 above)
Comment (mans0954) [reply Mathlib/Topology/Order/LowerUpperTopology.lean]: I've committed this for now, but happy to take an alternative suggestion from @YaelDillies .

File: Mathlib/Topology/Order/LowerUpperTopology.lean (hunk 1 above)
Comment (mans0954) [reply Mathlib/Topology/Order/LowerUpperTopology.lean]: Thanks! Didn't know about that before.

File: Mathlib/Topology/Order/LowerUpperTopology.lean (hunk 4 above)
Comment (YaelDillies) [reply Mathlib/Topology/Order/LowerUpperTopology.lean]: That `(α × β)ᵒᵈ ≃o αᵒᵈ × βᵒᵈ` is something I've had my eyes on for a while. I never had to use it yet, so I'm pleasantly surprised to see it being so painless.

I honestly think your approach is fine, but let me spell out the alternative as there's a few ingredients you could add already:
* define a type `α ≃ₜo β` of topological order isomorphisms
* show `(α × β)ᵒᵈ ≃ₜo αᵒᵈ × βᵒᵈ`. This is trivial, eg here's the one for order isomorphisms: `def Prod.OrderDualDistrib (α β : Type _) [Preorder α] [Preorder β] : (α × β)ᵒᵈ ≃o αᵒᵈ × βᵒᵈ :=
OrderIso.refl _` (this one you could add already)
* show that `UpperTopology` is preserved under topological order isomorphisms. Should be trivial as well.
* show that `UpperTopology αᵒᵈ ↔ LowerTopology α` (this you could add already)

Comment (ADedecker) [reply Mathlib/Topology/Order/LowerUpperTopology.lean]: Yes it doesn't look super bad, but somehow it's even more worrying because I can't explain why it works so well :sweat_smile: 
What you describe is indeed what I would have suggested as a "clean" approach, but it deserves its own PR. I'll open an issue for it. In the meantime, @mans0954 could you prove `UpperTopology αᵒᵈ ↔ LowerTopology α` as well as `LowerTopology αᵒᵈ ↔ UpperTopology α` and make the backwards direction an instance? It's already the case for one of them, but since `(αᵒᵈ)ᵒᵈ` is not the same as `α` for the typeclass system you can add the other one without any troubles.

Comment (mans0954) [reply Mathlib/Topology/Order/LowerUpperTopology.lean]: @ADedecker is this what you had in mind? https://github.com/leanprover-community/mathlib4/pull/5873/commits/f9ef40a79dbc489831d902d24ad68621eaf3a64a

File: Mathlib/Topology/Order/LowerUpperTopology.lean [hunk 5]
```diff
@@ -283,4 +471,30 @@ instance (priority := 90) LowerTopology.continuousInf : ContinuousInf α :=
...
+instance (priority := 90) UpperTopology.continuousInf : ContinuousSup α :=
+  ⟨(supsSupHom : sSupHom (α × α) α).continuous⟩
+
+end CompleteLattice_UpperTopology
+
+lemma UpperDual_iff_Lower [Preorder α] [TopologicalSpace α] :
+    UpperTopology αᵒᵈ ↔ LowerTopology α := by
+  constructor
+  · apply UpperTopology.instLowerTopologyOrderDualInstTopologicalSpaceOrderDualPreorder
+  · apply LowerTopology.instUpperTopologyOrderDualInstTopologicalSpaceOrderDualPreorder
```
Comment (ADedecker) [inline Mathlib/Topology/Order/LowerUpperTopology.lean:494]:
```suggestion
    constructor <;> intro _ <;> infer_instance
```
If that works. Same below

**Review by ADedecker — COMMENTED** [review]
One last comment, then this should be good to go!

File: Mathlib/Topology/Order/LowerUpperTopology.lean (hunk 4 above)
Comment (ADedecker) [reply Mathlib/Topology/Order/LowerUpperTopology.lean]: Yes, thanks!

File: Mathlib/Topology/Order/LowerUpperTopology.lean (hunk 5 above)
Comment (mans0954) [reply Mathlib/Topology/Order/LowerUpperTopology.lean:494]: Unfortunately
```
lemma UpperDual_iff_Lower [Preorder α] [TopologicalSpace α] :
    UpperTopology αᵒᵈ ↔ LowerTopology α := by
  constructor <;> intro _ <;> infer_instance
```
gives me
```
failed to synthesize instance
  LowerTopology α

```

Comment (ADedecker) [reply Mathlib/Topology/Order/LowerUpperTopology.lean:494]: Ah right because it doesn't know how to go backwards. Then let's keep the current proof. Could you just give an explicit name to the instances so that it looks better?

Comment (mans0954) [reply Mathlib/Topology/Order/LowerUpperTopology.lean]: Done, thanks.

**Comment by ADedecker** [comment]
Thanks!

maintainer merge

**Comment by ocfnash** [comment]
bors merge
